US04898871
The procedure is as in Example 22, but starting with 1-(2-hydroxyethyl)-4-acetylpiperazine (7.75 g) in anhydrous tetrahydrofuran (250 cc), an oily suspension (50% by weight; 2.3 g) of sodium hydride and 3-chloro-2(-7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (10 g). After crystallization successively in 2-propanol and then in ethanol, 3-[2-(4-acetyl-1-piperazinyl)ethoxy]-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (4.3 g), m.p. 172° C., is obtained.

reactant | 1-(2-hydroxyethyl)-4-acetylpiperazine | 7.75 g | OCCN1CCN(CC1)C(C)=O | C8H16N2O2
reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | 3-chloro-2(-7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 10 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
solvent | tetrahydrofuran | 250 cc | O1CCCC1 | C4H8O
product | 3-[2-(4-acetyl-1-piperazinyl)ethoxy]-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 4.3 g | C(C)(=O)N1CCN(CC1)CCOC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C24H24ClN5O3
